* ==========================================================================
* @part: AD8605
* @family: opamps
* @source: ADI
* @url: https://ngspice.sourceforge.io/model-parameters/MicroCap-LIBRARY.7z (Micro-Cap 12 library, Spectrum Software)
* @origin-file: ngspice/MicroCap-LIBRARY/MicroCap-LIBRARY-for-ngspice/analog.lib
* @retrieved: 2026-09-24
* @licence: notice: "Copyright 1999 by Analog Devices"
* @added-by: nav
* @pins: AD8605: 1 2 99 50 45
* @patched: 1 helper subckt/model name(s) suffixed with '__AD8605' so this file can be included together with other files
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
* SSM2275 SPICE Macro-Model Typcial Values * 8/97, Ver. 1
* TAM / ADSC
*
* Node assignments
*               noninverting input
*               |       inverting input
*               |       |       positive supply
*               |       |       |       negative supply
*               |       |       |       |       output
*               |       |       |       |       |
*               |       |       |       |       |
* ---- end of original file header ----

* ---- vendor notice (copied intact) ----
*
*$*$
* AD8602 SPICE Macro-model
* Typical Values
* 3/00, Ver. 1.0
* OEB / ADSC
*
* Copyright 1999 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of this
* model indicates your acceptance of the terms and provisions in
* the License Statement.
*
* Node Assignments
*			noninverting input
*			|	inverting input
*			|	|	 positive supply
*			|	|	 |	 negative supply
*			|	|	 |	 |	 output
*			|	|	 |	 |	 |
*			|	|	 |	 |	 |

* ---- vendor notice (copied intact) ----
*
*$
* AD8605 SPICE Macro-model
* Typical Values
* 05/02, Ver. 1.0
* SB, ADSiV apps
*
* Copyright 2002 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of this
* model indicates your acceptance of the terms and provisions in
* the License Statement.
*
* Node Assignments
*			noninverting input
*			|	inverting input
*			|	|	 positive supply
*			|	|	 |	 negative supply
*			|	|	 |	 |	 output
*			|	|	 |	 |	 |
*			|	|	 |	 |	 |

*
*$
* AD8605 SPICE Macro-model
* Typical Values
* 05/02, Ver. 1.0
* SB, ADSiV apps
*
* Copyright 2002 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of this
* model indicates your acceptance of the terms and provisions in
* the License Statement.
*
* Node Assignments
*			noninverting input
*			|	inverting input
*			|	|	 positive supply
*			|	|	 |	 negative supply
*			|	|	 |	 |	 output
*			|	|	 |	 |	 |
*			|	|	 |	 |	 |
.SUBCKT AD8605	1	2	99	50	45
* 
* INPUT STAGE
*
M1  14  7  8  8 PIX L=1E-6 W=1600E-6
M2  16  2  8  8 PIX L=1E-6 W=1600E-6
M3  17  7 10 10 NIX L=1E-6 W=1600E-6
M4  18  2 10 10 NIX L=1E-6 W=1600E-6
RC5 14 50 4E+3
RC6 16 50 4E+3
RC7 99 17 4E+3
RC8 99 18 4E+3
C1  14 16 0.6E-12
C2  17 18 0.6E-12
I1  99  8 100E-6
I2  10 50 100E-6
V1  99  9 0.3
V2  13 50 0.3
D1   8  9 dx__AD8605
D2  13 10 dx__AD8605
EOS  7  1 POLY(3) (22,98) (73,98) (81,98) 10E-6 1 1 1
IOS  1  2 0.05E-12
*
* CMRR 100dB,  POLE AT 4.5KHz
*
ECM1 21 98 POLY(2) (1,98) (2,98) 0 0.5 0.5
CCM1 21 22 3.54E-10
RCM1 21 22 100E3
RCM2 22 98 1
*
* PSRR=95dB, ZERO AT 534Hz
*
EPSY 98 72 POLY(1) (99,50) 0 1
CPS3 72 73 5.30E-9
RPS3 72 73 56234
RPS4 73 98 1
*
*
* VOLTAGE NOISE REFERENCE OF 8nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 7
RN2 81 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50 (99,50) 48E-6 
EVP  97 98 POLY(1) (99,50) -0.6 0.5
EVN  51 98 POLY(1) (50,99) 0.6 0.5
*
* GAIN STAGE
*
G1 98 30 POLY(2) (14,16) (17,18) 0 56.3E-6 56.3E-6
R1 30 98 5.43E8
CF 45 30 9E-12
D3 30 97 dx__AD8605
D4 51 30 dx__AD8605
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1E-6 W=1.08E-3
M6  45 47 50 50 NOX L=1E-6 W=1.61E-3
EG1 99 46 POLY(1) (98,30) 0.4644 1
EG2 47 50 POLY(1) (30,98) 0.4394 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=10E-6,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=10E-6,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=10E-6,VTO=-0.328,LAMBDA=0.01,KF=2.5E-31,AF=1,TOX=100E-3)
.MODEL NIX NMOS (LEVEL=2,KP=10E-6,VTO=+0.328,LAMBDA=0.01,KF=2.5E-31,AF=1,TOX=100E-3)
.MODEL dx__AD8605 D(IS=1E-14,RS=5)
.ENDS AD8605

* ---- vendor notice (copied intact) ----
* AD8574 SPICE Macro-model
* Typical Values
* 10/99, Ver. 1.0
* TAM / ADSC
*
* Copyright 1999 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of this
* model indicates your acceptance of the terms and provisions in
* the License Statement.

.model dx__AD8605 d()
